US03989708
After heating a solution of 18.1 g of 3-chlorobenzylideneacetone and 13.0 g of amidinoacetic acid ethyl ester in 150 ml of ethanol for 3 hours, 2-amino-6-methyl-4-(3-chlorophenyl)-1,4-dihydropyridine-3-carboxylic acid ethyl ester of melting point 140°C (isopropanol) is obtained. Yield: 56 percent of theory.

reactant | 3-chlorobenzylideneacetone | 18.1 g | ClC=1C=C(C=CC(C)=O)C=CC1 | C10H9ClO
reactant | amidinoacetic acid ethyl ester | 13.0 g | C(C)OC(CC(N)=N)=O | C5H10N2O2
reactant | isopropanol | C(C)(C)O | C3H8O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-amino-6-methyl-4-(3-chlorophenyl)-1,4-dihydropyridine-3-carboxylic acid ethyl ester | Yield: 56 percent | C(C)OC(=O)C1=C(NC(=CC1C1=CC(=CC=C1)Cl)C)N | C15H17ClN2O2
